US07238716B2
To a mixture of [4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]phenyl]methanol (0.50 g), methyl 2-(2-hydroxyphenyl)acetate (0.30 g), triphenylphosphine (0.60 g) and tetrahydrofuran (30 mL) was dropwise added a solution (40%, 1.00 g) of diethyl azodicarboxylate in toluene at room temperature, and the mixture was stirred for 15 hrs. To the reaction mixture was added ethyl acetate, and washed successively with water, a 2N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 2-[2-[4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate as an oil (0.40 g, 56%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | [4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]phenyl]methanol | 0.50 g | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CO)CCC | C20H21NO3
reactant | methyl 2-(2-hydroxyphenyl)acetate | 0.30 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | triphenylphosphine | 0.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.00 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 2-[2-[4-[(2-phenyl-5-propyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 0.40 g, 56% | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=C(C=CC=C2)CC(=O)OC)C=C1)CCC | C29H29NO5
